* C:\Work\PCB\hw_uni02_pwm_generator\Simulation.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 TRIG OUT +18V NC_01 TRIG N001 +18V NE555
V1 +18V 0 18
C1 +18V 0 10n
C2 +18V 0 10n
R1 TRIG N001 10k
R2 N001 +18V 10k
C3 TRIG 0 1µ
R3 OUT 0 10k
.tran 1
.lib NE555.sub
.backanno
.end
